US07645753B2
3-Ethoxy-5-isobutoxy-benzaldehyde
To a solution of (3-ethoxy-5-isobutoxy-phenyl)-methanol (0.28 g, 1.25 mmol, 1.0 equiv) in DMF (20 mL) was added activated MnO2 (1.09 g, 12.48 mmol, 10.0 equiv). The reaction mixture was heated to 60° C. for 2 h, filtered through Hyflo Super Cel and concentrated by evaporation under reduced pressure yielding 0.28 g (99% yield) of the title compound. MS (ISP): 223.0 [M+H]+.

reactant | (3-ethoxy-5-isobutoxy-phenyl)-methanol | 1.25 mmol, 0.28 g, 1.0 equiv | C(C)OC=1C=C(C=C(C1)OCC(C)C)CO | C13H20O3
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
catalyst | MnO2 | 12.48 mmol, 1.09 g, 10.0 equiv | O=[Mn]=O
product | 3-Ethoxy-5-isobutoxy-benzaldehyde | 0.28 g, 99% yield | C(C)OC=1C=C(C=O)C=C(C1)OCC(C)C | C13H18O3
